US07968583B2
Preparation of 3-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-benzoylamino]-6,6-dimethyl-5,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-2-carboxylic acid ethyl ester hydochloride
To a suspension of 3-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-benzoylamino]-6,6-dimethyl-4H,6H-pyrrolo[3,4-c]pyrazole-2,5-dicarboxylic acid 5-tert-butyl ester 2-ethyl ester (1.5 g, 2.5 mmol) in 1,4-dioxane (20 mL) was added 4N HCl in 1,4-dioxane (14 mL, 56 mmol). After stirring at room temperature overnight the volatiles were removed under reduced pressure and the residue triturated with diethylether affording the title compound as white solid (1.24 g).

reactant | 3-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-benzoylamino]-6,6-dimethyl-4H,6H-pyrrolo[3,4-c]pyrazole-2,5-dicarboxylic acid 5-tert-butyl ester 2-ethyl ester | 2.5 mmol, 1.5 g | CCOC(=O)N1N=C2C(=C1NC(C1=C(C=CC=C1)CN1C(C3=CC=CC=C3C1=O)=O)=O)CN(C2(C)C)C(=O)OC(C)(C)C | C31H33N5O7
reactant | HCl | 4N | Cl | ClH
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 56 mmol, 14 mL | O1CCOCC1 | C4H8O2
product | 3-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-benzoylamino]-6,6-dimethyl-5,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-2-carboxylic acid ethyl ester hydochloride | Cl.C(C)OC(=O)N1N=C2C(=C1NC(C1=C(C=CC=C1)CN1C(C3=CC=CC=C3C1=O)=O)=O)CNC2(C)C | InChI=1S/C26H25N5O5.ClH/c1-4-36-25(35)31-21(19-13-27-26(2,3)20(19)29-31)28-22(32)16-10-6-5-9-15(16)14-30-23(33)17-11-7-8-12-18(17)24(30)34;/h5-12,27H,4,13-14H2,1-3H3,(H,28,32);1H
